US09403804B2
a) 1-(4-Amino-phenyl)-cyclopropanecarbonitrile
To a solution of 1-(4-nitro-phenyl)-cyclopropanecarbonitrile (500 mg, 2.65 mmol, Journal of the American Chemical Society, 71, 2031-5; 1949) in 7 mL of EtOH-2.5 mL of EtOAc was added 350 mg 5% Pd—C. The mixture was stirred under 1 atm of H2 overnight. The reaction was filtered, concentrated in vacuo and then purified using preparative thin layer chromatography (CHCl3) to afford the title compound as an oil (96 mg, 23%). Mass spectrum (ESI, m/z): Cald. C10H10N2, 159.0. found 159.2.

reactant | 1-(4-nitro-phenyl)-cyclopropanecarbonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C1(CC1)C#N | C10H8N2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 7 mL | CCO | C2H6O
catalyst | Pd—C | 350 mg | [Pd] | Pd
product | 1-(4-Amino-phenyl)-cyclopropanecarbonitrile | 96 mg, 23% | NC1=CC=C(C=C1)C1(CC1)C#N | C10H10N2
